US09079889B2
To a solution of 4-((3R,4R,5S)-3,4-bis(tert-butyldimethylsilyloxy)-5-methylpiperidin-1-yl)-3-nitropyridine (1.0 equiv.) in ethanol, at a concentration of 0.05 M, was added 10% palladium on carbon (0.1 eq.). The resultant heterogeneous solution was put under an atmosphere of hydrogen and was stirred for 14 hours. At this time the mixture was filtered through a pad of celite eluting with ethanol. The volatiles were removed in vacuo yielding 4-((3R,4R,5S)-3,4-bis(tert-butyldimethylsilyloxy)-5-methylpiperidin-1-yl)pyridin-3-amine LC/MS=452.4 (M+H), Rt=1.31 min.

reactant | 4-((3R,4R,5S)-3,4-bis(tert-butyldimethylsilyloxy)-5-methylpiperidin-1-yl)-3-nitropyridine | 1.0 equiv. | [Si](C)(C)(C(C)(C)C)O[C@@H]1CN(C[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)C)C1=C(C=NC=C1)[N+](=O)[O-] | C23H43N3O4Si2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | 0.1 eq. | [Pd] | Pd
product | 4-((3R,4R,5S)-3,4-bis(tert-butyldimethylsilyloxy)-5-methylpiperidin-1-yl)pyridin-3-amine | [Si](C)(C)(C(C)(C)C)O[C@@H]1CN(C[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)C)C1=C(C=NC=C1)N | C23H45N3O2Si2
